US06384028B1
Trifluoroacetic acid (3 ml) was added to N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)propanoyl]-3-piperidylcarbonyl]-3(S)-acetylaminomethyl-β-alanine tert-butyl ester. The solvent was evaporated in vacuo. The residue was neutralized with saturated aqueous NaHCO3 and purified by HP-20 resin eluting with isopropanol/water (0-50% to give N-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]-3(S)-acetylaminomethyl-β-alanine (120 mg, 50.0%).

reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)propanoyl]-3-piperidylcarbonyl]-3(S)-acetylaminomethyl-β-alanine tert-butyl ester | C(C)(C)(C)OC(C[C@H](NC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)CNC(C)=O)=O | C29H50N4O7
product | N-[(R)-1-[3-(4-piperidyl)propanoyl]-3-piperidylcarbonyl]-3(S)-acetylaminomethyl-β-alanine | 120 mg, 50.0% | N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)CNC(C)=O | C20H34N4O5
